Twilight Switch with CMOS 4007 and Bipolar Transistors

.INCLUDE cd4007.mod
.INCLUDE bc557.mod

* Powersupply
VDD  99 0 DC 12V

R3 3   0 220k
R4 99  2  10k
R5 4   0  57k

*M1BP 3 1 2 99 CD4007P
Q1   3 1 2 bc557b
Q2   4 3 2 bc557b

C2 4   5  100n
R6 5   0  220k
D1 5   6

R9  6  9 220k
R10 8 99 3Meg
C5  6  0 10n
D2  8 99
C4  7  8 1000u

M1AP 7 6 99 99 CD4007P
M1AN 7 6 0 0 CD4007N
M1CP 9 8 99 99 CD4007P
M1CN 9 8 0 0 CD4007N


VIN 98  0 SIN(6V 6V 0.000011574 0V 0 0)
RIN 98  1 100k


