Twilight Switch with CMOS 4007

.INCLUDE cd4007.mod

* Powersupply
VDD  99 0 DC 12V

R1   0  3 100k
R2   0  4 57k
R3   5  99 10k

R4   3  7 100k
R5   10  2 1Meg

M1 3 2 5 99 CD4007P
M2 4 7 5 99 CD4007P

C1   4  11 1u
R6   11  0 100k

M3 12 14 0 0 CD4007N
M4 13 15 0 0 CD4007N

R8 13  99 57k
R9 12  99 100k

R7 14 13 100k
D1 11 14

C2  12 15 1000u
D2  15  99
R10 15  99 10Meg

C3  14  0  100n

M5 16 12 99 99 CD4007P
M6 16 12  0  0 CD4007N

VIN 10  0 SIN(6V 6V 0.000011574 0V 0 0)


